Name:  ___)          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Penicillins / Bactrim / Cephalexin / Nitrofurantoin / Dilantin 
Kapseal / Tegretol / Iodine-Iodine Containing / Phenobarbital / 
furosemide / Lyrica / ranitidine / gabapentin
 
Attending: ___.
 
Chief Complaint:
Duodenal polyp 
 
Major Surgical or Invasive Procedure:
___: ___ line placement 

 
History of Present Illness:
Mrs. ___ in a ___ with h/o ESRD s/p DDKT (___), PUD w/
gastric ulcer, EMR of sessile duodenal polyps in ___ c/b
duodenal/gastric perforation requiring ex-lap and omental patch
repair, recently found to have regrowth of small sessile 
duodenal
polyp with intermittent acholic stools, and ~30lb weight loss.

She recently underwent EGD at CHA in ___ for evaluation of
worsening abdominal pain and was found to have two small (3 to
15mm) recurrent sessile polyps in ___ portion of the duodenum as
well as large duodenal diverticulum. Biopsy demonstrated tubular
adenoma with low-grade dysplasia, though repeat EMR was deferred
given prior h/o perforation. 

She presents to the hospital day prior to her scheduled 
resection
of duodenal polyp. She states that she continued to feel
abdominal pain in the epigastric region but denies any nausea,
vomiting, fever, or chills. 

 
Past Medical History:
RENAL:
# s/p cadaveric Renal transplant: ___, ESRD ___ chronic 
reflux nephropathy, on prednisone and tacrolimus; baseline Cr 
1.0-1.2   
# Acute interstitial nephritis ___ presumably from ranitidine 
 
# Polyneuropathy in renal disease  
# Anemia  of chronic disease

CARDIAC:
# CAD: NSTEMI ___, s/p cardiac cath without intervention 
# Paroxysmal atrial fibrillation 
# Hypertension
# Hyperlipidemia  
# Diastolic dysfunction  
# H/o DVT  

ENDOCRINE:
# Hypothyroidism  
# Osteopenia ___ chronic steroid use

SURGERY
# s/p craniotomy for ICH (?intracranial aneurysm)  
# s/p foot surgeries  

GI/HEPATOLOGY
# GERD

SURGERY
# Osteonecrosis of bilateral feet c/b osteomyelitis 
# osteonecrosis of L hip requiring surgical intervention and 
girdlestone procedure
# s/p cholecystecomy, s/p appendectomy  
# small intestinal adenoma with endoscopic resection c/b bowel 
perforation requiring ex-lap in ___  
# Cataract surgery  

INFECTIOUS
# MRSA osteomyelitis ___  
# Hx of c.diff 2 and ___ yrs ago  
# recurrent UTI (lower urinary tract infection)  

PSYCH
# Panic disorder  

HEENT
# Hearing loss of both ears   

MISC
# Chronic low back pain w/ sciatica 
 
Social History:
___
Family History:
 Father died ___ CAD at age ___.  
 Mother died young of unknown causes.  
 
Physical Exam:
Physical Exam:
Vitals: T 97.9 BP 148/84 HR 71  RR 20  ___ 98 RA 
Gen: A&Ox3, in NAD
HEENT: No scleral icterus, mucus membranes moist
Pulm: comfortable on RA
CV: RRR
Abd: Soft, nondistended; TTP in epigastric region, no
rebound/guarding, no palpable masses; well healed midline
incision 
Ext: moderate edema of bilateral LEs, tender to touch, otherwise
WWP, no e/o ulcerations

 
Pertinent Results:
RECENT LABS: 

___ 05:28AM BLOOD WBC-5.6 RBC-3.31* Hgb-9.5* Hct-31.8* 
MCV-96 MCH-28.7 MCHC-29.9* RDW-16.0* RDWSD-56.6* Plt ___
___ 05:28AM BLOOD ___ PTT-30.2 ___
___ 05:28AM BLOOD Glucose-108* UreaN-30* Creat-1.3* Na-138 
K-4.2 Cl-101 HCO3-29 AnGap-12
___ 05:28AM BLOOD Calcium-9.0 Phos-4.3 Mg-2.9*
___ 05:28AM BLOOD tacroFK-5.4
___ 05:51AM BLOOD tacroFK-5.4
 
Brief Hospital Course:
The patient with recurrent duodenal polyp was admitted to the 
Surgical Oncology service for elective surgical resection. The 
patient has a poor peripheral access and PICC line was placed 
for hydration and medication administration. On HD 2, patient 
decided to postpone her operation, and requested palliative and 
social work consult for symptoms management. On HD 3, patient 
was evaluated by Palliative care and Social Worker, she was 
recommended to follow up with her PCP in outpatient pain 
service. Patient was discharged back in her facility in 
satisfactory condition. PICC line was removed prior to 
discharge. During hospitalization, patient received home dose 
Tacrolimus and level was within therapeutic range. 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Levothyroxine Sodium 88 mcg PO DAILY 
2. Omeprazole 40 mg PO DAILY 
3. Acyclovir 400 mg PO Q12H 
4. DULoxetine 30 mg PO DAILY 
5. Tacrolimus 0.5 mg PO QHS 
6. Rosuvastatin Calcium 40 mg PO QPM 
7. Fentanyl Patch 37.5 mcg/h TD Q72H 
8. Acetaminophen 1000 mg PO TID 
9. Sucralfate 1 gm PO TID:PRN Abdominal pain  
10. Fleet Enema ___AILY:PRN constipation 
11. Bisacodyl ___AILY:PRN constipation 
12. Ondansetron 4 mg PO Q6H:PRN nausea 
13. ClonazePAM 0.5 mg PO Q12H:PRN Anxiety  
14. Milk of Magnesia 30 mL PO DAILY:PRN Constipation 
15. Multivitamins 1 TAB PO DAILY 
16. Aspirin 81 mg PO DAILY 
17. Metoprolol Succinate XL 50 mg PO DAILY 
18. Calcitriol 0.5 mcg PO DAILY 
19. PredniSONE 5 mg PO DAILY 

 
Discharge Medications:
1.  Tacrolimus 0.5 mg PO Q12H  
2.  Acetaminophen 1000 mg PO TID  
3.  Acyclovir 400 mg PO Q12H  
4.  Aspirin 81 mg PO DAILY  
5.  Bisacodyl ___AILY:PRN constipation  
6.  Calcitriol 0.5 mcg PO DAILY  
7.  ClonazePAM 0.5 mg PO Q12H:PRN Anxiety   
8.  DULoxetine 30 mg PO DAILY  
9.  Fentanyl Patch 37.5 mcg/h TD Q72H  
10.  Fleet Enema ___AILY:PRN constipation  
11.  Levothyroxine Sodium 88 mcg PO DAILY  
12.  Metoprolol Succinate XL 50 mg PO DAILY  
13.  Milk of Magnesia 30 mL PO DAILY:PRN Constipation  
14.  Multivitamins 1 TAB PO DAILY  
15.  Omeprazole 40 mg PO DAILY  
16.  Ondansetron 4 mg PO Q6H:PRN nausea  
17.  PredniSONE 5 mg PO DAILY  
18.  Rosuvastatin Calcium 40 mg PO QPM  
19.  Sucralfate 1 gm PO TID:PRN Abdominal pain   

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Duodenal polyp 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.
You were admitted to the surgery service at ___ for possible 
surgical duodenal resection secondary to recurrent polyp. You 
decided to postpone your surgery at that time. You are now safe 
to return in your long medical facility. 
.
Please call Dr. ___ office at ___ if you have any 
questions or concerns.
 
Followup Instructions:
___